US04166115
2-(3-Hydroxyphenyl)glyoxylic acid (2.0 g.) and O-allylhydroxylamine hydrochloride (1.7 g.) were reacted according to a similar manner to that of Preparation (5-2)(a) to give oil of 2-allyloxyimino-2-(3-hydroxyphenyl)acetic acid (syn isomer) (2.7 g.).

reactant | 2-(3-Hydroxyphenyl)glyoxylic acid | 2.0 g | OC=1C=C(C=CC1)C(C(=O)O)=O | C8H6O4
reactant | O-allylhydroxylamine hydrochloride | 1.7 g | Cl.C(C=C)ON
product | 2-allyloxyimino-2-(3-hydroxyphenyl)acetic acid | 2.7 g | C(C=C)ON=C(C(=O)O)C1=CC(=CC=C1)O | C11H11NO4
